US06133271
Following the procedure of Example 97, the reaction of imidazole with 6-chloro-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine gives 2-(imidazol-1-yl)-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine.

reactant | imidazole | N1C=NC=C1 | C3H4N2
reactant | 6-chloro-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | ClC1=CC2=C(N=CN=C2NCCC2=CC3=C(C=C2)OCO3)S1 | C15H12ClN3O2S
product | 2-(imidazol-1-yl)-4-(3,4-methylenedioxyphenethylamino)-thieno-[2,3-d]-pyrimidine | N1(C=NC=C1)C=1N=C(C2=C(N1)SC=C2)NCCC2=CC1=C(C=C2)OCO1 | C18H15N5O2S
